US07820707B2
b) 2-(2-(3-(trifluoromethyl)-4,5,6,7-tetrahydroindazole-1-yl)propanamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
3-(trifluoromethyl)-4,5,6,7-tetrahydroindazole (50 mg, 0.263 mmol) was dissolved in DMF (2 mL). NaH (60% [w/w] suspension in oil, 11 mg, 0.275 mmol) was added followed by potassium iodide (2 mg, catalyst) and the reaction mixture stirred at RT for 30 min. 2-(3-chloropropanamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (75 mg, 0.262 mmol) was then added and the reaction mixture heated at 120° C. for 400 sec in a Biotage SmithCreator microwave. Water was added followed by EtOAc (3×10 mL) extraction. The EtOAc layers were washed with water (5×5 mL), brine, dried over MgSO4, filtered and the solvent removed in vacuo to give a yellow gum. Purification by preparative reverse phase HPLC gave desired product (22.7 mg, 0.052 mmol, 20%).

reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydroindazole | 0.263 mmol, 50 mg | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
reactant | NaH | 0.275 mmol, 11 mg | [H-].[Na+]
reactant | potassium iodide | 2 mg | [I-].[K+]
reactant | 2-(3-chloropropanamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.262 mmol, 75 mg | ClCCC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N | C12H15ClN2O2S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-(2-(3-(trifluoromethyl)-4,5,6,7-tetrahydroindazole-1-yl)propanamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 0.052 mmol, 22.7 mg, 20% | FC(C1=NN(C=2CCCCC12)C(C(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C)(F)F | C20H23F3N4O2S
